US07728155B2
Treatment of (2S*)-3-[(1R*,4S*)-5-(benzyloxy)-8-methoxy-1,2,3,4-tetrahydro-1,4-methanonaphthalen-6-yl]propane-1,2-diol (13.95 g, 39.56 mmol) with p-toluenesulfonyl chloride (8.25 g, 43.92 mmol) in anhydrous pyridine (350 mL) generally according to the procedure described for Intermediate 18 gave (2S*)-3-[(1R*,4S*)-5-(benzyloxy)-8-methoxy-1,2,3,4-tetrahydro-1,4-methanonaphthalen-6-yl]-2-hydroxypropyl 4-methylbenzenesulfonate. Treatment of the tosylate with palladium on carbon (10 wt. %, 1.6 g) generally according to the procedure described for Intermediate 4 provided 12.77 g (77%) of (2S*)-2-hydroxy-3-[(1R*,4S*)-5-hydroxy-8-methoxy-1,2,3,4-tetrahydro-1,4-methanonaphthalen-6-yl]propyl 4-methylbenzenesulfonate. Treatment of the phenyl (12.73 g, 30.4 mmol) with triphenylphosphine (8.78 g, 33.5 mmol) followed by diethylazodicarboxylate (5.83 g, 33.5 mmol) generally according to the procedure described for Intermediate 5 afforded 7.67 g (48%) of [(2R*,6R*,9S*)-5-methoxy-2,3,6,7,8,9-hexahydro-6,9-methanonaphtho[1,2-b]furan-2-yl]methyl 4-methylbenzenesulfonate as a colorless oil. Anal. calcd. for C22H24O5S: C, 65.98; H, 6.04. Found: C, 65.61; H, 5.92.

reactant | (2S*)-3-[(1R*,4S*)-5-(benzyloxy)-8-methoxy-1,2,3,4-tetrahydro-1,4-methanonaphthalen-6-yl]propane-1,2-diol | 39.56 mmol, 13.95 g | C(C1=CC=CC=C1)OC1=C2[C@H]3CC[C@@H](C2=C(C=C1C[C@@H](CO)O)OC)C3 | C22H26O4
reactant | p-toluenesulfonyl chloride | 43.92 mmol, 8.25 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 350 mL | N1=CC=CC=C1 | C5H5N
product | (2S*)-3-[(1R*,4S*)-5-(benzyloxy)-8-methoxy-1,2,3,4-tetrahydro-1,4-methanonaphthalen-6-yl]-2-hydroxypropyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CC=1C(=C2[C@H]3CC[C@@H](C2=C(C1)OC)C3)OCC3=CC=CC=C3)O | C29H32O6S
